US08247430B2
3-(5-Amino-2-chloro-phenoxymethyl)-azetidine-1-carboxylic Acid Tert-Butyl Ester
To a solution of 3-(2-chloro-5-nitro-phenoxymethyl)-azetidine-1-carboxylic acid tert-butyl ester (2.5 g, 7.29 mmol) in 60 mL of MeOH/H2O (1:1) and 3 mL of acetic acid (J. T. Baker) was added Zn powder (2.3 g, 36.47 mmol, Aldrich) at 0° C. The reaction mixture was stirred at 0° C. for 2 h then stirred at 10° C. for 2 h. The resulting mixture was filtered through a Celite® pad and the filtrate was concentrated in vacuo. The residue was treated with 60 mL of saturated aqueous NaHCO3 and extracted with EtOAc (3×50 mL). The combined organic layers were washed with brine and dried with MgSO4. The resulting solution was concentrated in vacuo and the title compound was obtained by column chromatography (silica gel, EtOAc) as a yellow solid.

reactant | 3-(2-chloro-5-nitro-phenoxymethyl)-azetidine-1-carboxylic acid tert-butyl ester | 7.29 mmol, 2.5 g | C(C)(C)(C)OC(=O)N1CC(C1)COC1=C(C=CC(=C1)[N+](=O)[O-])Cl | C15H19ClN2O5
solvent | MeOH H2O | 60 mL | CO.O
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
catalyst | Zn | 36.47 mmol, 2.3 g | [Zn] | Zn
product | 3-(5-Amino-2-chloro-phenoxymethyl)-azetidine-1-carboxylic Acid Tert-Butyl Ester | C(C)(C)(C)OC(=O)N1CC(C1)COC1=C(C=CC(=C1)N)Cl | C15H21ClN2O3
